US07700641B2
D. Synthesis of ethyl[1-hexyl-3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]acetate
To a solution of diisopropylamine (1.14 g, 11.0 mmol) in THF (10.0 mL) was added n-butyl lithium (7.00 mL, 11.0 mmol, 1.6 M solution in hexane) at −75° C. The resulting mixture was stirred at −75° C. for half an hour and added slowly to a solution of 1-hexyl-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one in THF (20.0 mL) at −75° C. After stirring at −75° C. for another half an hour, ethyl bromoacetate was added. The mixture was stirred at ambient temperature for 18 hrs and quenched with saturated ammonim chloride solution. The organic solvent was removed in vacuo and the aqueous residue was diluted with ethyl acetate (100 mL). The orgnic layer was washed with saturated ammonium chloride (25.0 mL), brine (50.0 mL), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography eluting with 40% EtOAc/Hexanes to yield the title compound (0.19 g, 8%) as an oil: MS (ES+) m/z 440.5 (M+1).

reactant | diisopropylamine | 11.0 mmol, 1.14 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 11.0 mmol, 1.6 M, 7.00 mL | C(CCC)[Li]
reactant | 1-hexyl-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C(CCCCC)N1C(C(C2=CC=CC=C12)C1=CC2=C(OCO2)C=C1O)=O | C21H23NO4
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
product | ethyl[1-hexyl-3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]acetate | 0.19 g, 8% | C(C)OC(CC1(C(N(C2=CC=CC=C12)CCCCCC)=O)C1=CC2=C(OCO2)C=C1O)=O | C25H29NO6
